US07589170B1
A solution of lithium hydroxide hydrate (300 mg, 7.15 mmol) in water (15 cm3) was added dropwise to a stirred solution of benzyl 4-benzyloxy-3-hydroxybenzoate (1.177 g, 3.52 mmol) in tetrahydrofuran (35 cm3). The resulting emulsion was stirred overnight, by which time a clear, pale yellow solution had formed. More lithium hydroxide hydrate (300 mg, 7.15 mmol), water (25 cm3) and tetrahydrofuran (25 cm3) were added, and stirring was continued for 24 h. The tetrahydrofuran was removed under reduced pressure. Water (100 cm3) was added to the residual mixture, which was washed with diethyl ether (2×50 cm3), acidified to pH 1 with 5% HCl and extracted with dichloromethane (3×100 cm3). The combined extracts were washed with brine (50 cm3), dried (NaSO4) and evaporated to give 4-benzyloxy-3-hydroxybenzoic acid as a white solid (638 mg, 74%). The diethyl ether washings were extracted with 1 M potassium hydroxide (2×25 cm3). The combined extracts were acidified to pH 1 with 5% HCl and extracted with dichloromethane (3×100 cm3). The combined extracts were dried over MgSO4 and evaporated to give a further 119 mg of product (total yield 757 mg, 88%), m.p. 163-165° C.

reactant | lithium hydroxide hydrate | 7.15 mmol, 300 mg | O.[OH-].[Li+]
reactant | benzyl 4-benzyloxy-3-hydroxybenzoate | 3.52 mmol, 1.177 g | C(C1=CC=CC=C1)OC1=C(C=C(C(=O)OCC2=CC=CC=C2)C=C1)O | C21H18O4
reactant | lithium hydroxide hydrate | 7.15 mmol, 300 mg | O.[OH-].[Li+]
solvent | water | 15 cm3 | O | H2O
solvent | tetrahydrofuran | 35 cm3 | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 cm3 | O1CCCC1 | C4H8O
solvent | water | 25 cm3 | O | H2O
product | 4-benzyloxy-3-hydroxybenzoic acid | 638 mg, 74% | C(C1=CC=CC=C1)OC1=C(C=C(C(=O)O)C=C1)O | C14H12O4
